US06784167B2
To a 0° C. solution of 2-(4-chlorophenylthio)thiophene (0.49 g, 2.2 mmol) in MeOH (8 mL) was added a solution of Oxone® 3.98 g, 6.5 mmol) in water (8 mL). The resulting slurry was allowed to warm to room temperature, stirred for 4 h, then diluted with water and extracted with CH2Cl2. The organic layer was washed with water and a saturated NaCl solution, dried (Na2SO4) and concentrated under reduced pressure to give 4-chloro-1-(2-thienylsulfonyl)benzene (0.69 g, 100%) as a white solid: TLC (20% EtOAc/hex) Rf 0.36; 1H NMR (CDCl3) δ 7.09-7.12 (m, 1H), 7.47-7.52 (m, 2H), 7.66-7.71 (m, 2H), 7.90-7.95 (m, 2H).

reactant | 2-(4-chlorophenylthio)thiophene | 2.2 mmol, 0.49 g | ClC1=CC=C(C=C1)SC=1SC=CC1 | C10H7ClS2
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | water | 8 mL | O | H2O
solvent | MeOH | 8 mL | CO | CH4O
product | 4-chloro-1-(2-thienylsulfonyl)benzene | 0.69 g, 100% | ClC1=CC=C(C=C1)S(=O)(=O)C=1SC=CC1 | C10H7ClO2S2
